US06586633B1
Production of trans-3′-[N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-methylaminomethyl]propiophenone (Compound 23)
N-(6,6-dimethyl-2-hepten-4-ynyl)methylamine (trans:cis=about 3:1) (0.80 g; 5.29 mmol) and sodium carbonate (0.80 g; 7.56 mmol) were added to N,N-dimethylformamide (20 ml). While the mixture was stirred at room temperature, 3′-bromomethylpropiophenone (1.14 g; 5.04 mmol) in N,N-dimethylformamide (10 ml) was added dropwise. The mixture was stirred for 2.5 hours at room temperature, and poured into ice+saturated aqueous sodium bicarbonate solution, followed by extraction with ethyl acetate (100 ml). The organic layer was washed with saturated aqueous sodium bicarbonate solution and then with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=10:1), to thereby yield 0.40 g of the target compound as orange oily matter (yield: 26.7%).

reactant | N-(6,6-dimethyl-2-hepten-4-ynyl)methylamine | 5.29 mmol, 0.80 g | CC(C#CC=CCNC)(C)C | C10H17N
reactant | sodium carbonate | 7.56 mmol, 0.80 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3′-bromomethylpropiophenone | 5.04 mmol, 1.14 g | BrCC=1C=C(C=CC1)C(CC)=O | C10H11BrO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | trans-3′-[N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-methylaminomethyl]propiophenone | yield: 26.7% | CC(C#C/C=C/CN(C)CC=1C=C(C=CC1)C(CC)=O)(C)C | C20H27NO
